US04871730
To a solution of benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (3 g) and bis(trimethylsilyl)urea (3.70 g) in tetrahydrofuran (45 ml) was added 2-(5-amino-1,2,4-thiadiazol-3yl)-2-carboxymethoxyiminoacetic methanesulfonic anhydride (syn isomer) (1.45 g) at -30° C. The mixture was stirred at -20~-10° C. for 1 hour, at 0° C. overnight and at ambient temperature for 2 days. The mixture was poured into a mixture of ethyl acetate and a saturated aqueous solution of sodium chloride. The organic layer was separated, dried over sodium sulfate and concentrated in vacuo to give a precipitate. The precipitate was collected and washed with ethyl acetate and diisopropyl ether in turn to give benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3yl)-2-carboxymethoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (syn isomer) (1.95 g).

reactant | benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 3 g | NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S2
reactant | bis(trimethylsilyl)urea | 3.70 g | C[Si](C)(C)NC(=O)N[Si](C)(C)C | C7H20N2OSi2
reactant | 2-(5-amino-1,2,4-thiadiazol-3yl)-2-carboxymethoxyiminoacetic methanesulfonic anhydride | 1.45 g | CS(=O)(=O)OC(C(=NOCC(=O)O)C1=NSC(=N1)N)=O | C7H8N4O7S2
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3yl)-2-carboxymethoxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 1.95 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)O | C33H27N7O7S3
